US07700641B2
Synthesis of 6,7-dihydrospiro[benzo[1,2-b:4,5-b′]difuran-3,3′-indol]-2′(1′H)-one
A mixture of 1′-(diphenylmethyl)-6,7-dihydrospiro[benzo[1,2-b:4,5-b′]difuran-3,3′-indol]-2′(1′H)-one (0.29 g, 0.65 mmol) and palladium hydroxide (0.10 g, 20% on activated carbon) in acetic acid (20.0 mL) was hydrogenated at 60° C. under normal pressure of hydrogen for 20 hours. The reaction mixture was filtered through celite and washed with acetone (50.0 mL). The filtrate was concentrated in vacuo to dryness to give the title compound (0.13 g, 69%): MS (ES+) m/z 280.2 (M+1).

reactant | 1′-(diphenylmethyl)-6,7-dihydrospiro[benzo[1,2-b:4,5-b′]difuran-3,3′-indol]-2′(1′H)-one | 0.65 mmol, 0.29 g | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)C=1C(OC2)=CC2=C(OCC2)C1)=O)C1=CC=CC=C1 | C30H23NO3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 20.0 mL | C(C)(=O)O | C2H4O2
catalyst | palladium hydroxide | 0.10 g | [OH-].[Pd+2].[OH-]
product | 6,7-dihydrospiro[benzo[1,2-b:4,5-b′]difuran-3,3′-indol]-2′(1′H)-one | 0.13 g, 69% | N1C(C2(C3=CC=CC=C13)C=1C(OC2)=CC2=C(OCC2)C1)=O | C17H13NO3
